US05194624
To a solution of (2S,4R)-2-aminomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (30.0 g) in water (150 ml) and tetrahydrofuran (450 ml) was added chloroacetyl chloride (6.4 ml) below 10° C., keeping the pH between 8-9 with 4N aqueous sodium hydroxide. The reaction mixture was poured into saturated aqueous sodium chloride (150 ml), the organic layer was separated, and the aqueous solution was extracted twice with ethyl acetate (100 ml). The organic layer was combined and washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give crude (2S,4R)-4-t-butyldimethylsilyloxy-2-(chloroacetamido)methyl-1-(4-nitrobenzyloxycarbonyl)-pyrrolidine.

reactant | (2S,4R)-2-aminomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 30.0 g | NC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H31N3O5Si
reactant | chloroacetyl chloride | 6.4 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | (2S,4R)-4-t-butyldimethylsilyloxy-2-(chloroacetamido)methyl-1-(4-nitrobenzyloxycarbonyl)-pyrrolidine | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CNC(CCl)=O | C21H32ClN3O6Si
